US08119692B2
(3S,5R)-3-butyl-5-(4-fluorophenyl)dihydrofuran-2(3H)-one (Intermediate E2)
(3S,5R)-3-((E)-but-2-enyl)-5-(4-fluorophenyl)dihydrofuran-2(3H)-one (100.0 mg, 0.43 mmol) was dissolved into 8 mL benzene and to it added Wilkinson catalysis (39.0 mg, 0.4 mmol). The solution was saturated with H2 (stream of H2 bubbled through solution) and then stirred for 20 h at room temperature under an atmosphere of hydrogen balloon. The solvent was removed under reduced pressure and the product isolated by flash column chromatography eluting with 3% to 30% ethyl acetate/hexane to give 94 mg of the title compound as a colorless oil.

reactant | (3S,5R)-3-((E)-but-2-enyl)-5-(4-fluorophenyl)dihydrofuran-2(3H)-one | 0.43 mmol, 100.0 mg | C(\C=C\C)[C@@H]1C(O[C@H](C1)C1=CC=C(C=C1)F)=O | C14H15FO2
solvent | benzene | 8 mL | C1=CC=CC=C1 | C6H6
product | (3S,5R)-3-butyl-5-(4-fluorophenyl)dihydrofuran-2(3H)-one | 94 mg | C(CCC)[C@@H]1C(O[C@H](C1)C1=CC=C(C=C1)F)=O | C14H17FO2
